US08975400B2
2-chloro-4-(2-cyano-4-(((1-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)phenoxy)benzonitrile
Prepared in a manner similar to that described for E1 using 2-chloro-4-(2-cyano-4-(hydroxymethyl)phenoxy)benzonitrile (60 mg, 0.211 mmol) in THF (S mL), sodium hydride (12.64 mg, 0.316 mmol) and 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one (39.1 mg, 0.211 mmol).

reactant | 2-chloro-4-(2-cyano-4-(hydroxymethyl)phenoxy)benzonitrile | 0.211 mmol, 60 mg | ClC1=C(C#N)C=CC(=C1)OC1=C(C=C(C=C1)CO)C#N | C15H9ClN2O2
reactant | sodium hydride | 0.316 mmol, 12.64 mg | [H-].[Na+]
reactant | 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | 0.211 mmol, 39.1 mg | ClC=1C=C2N(C(N1)=O)CCN2C | C7H8ClN3O
solvent | THF | C1CCOC1 | C4H8O
product | 2-chloro-4-(2-cyano-4-(((1-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)phenoxy)benzonitrile | ClC1=C(C#N)C=CC(=C1)OC1=C(C=C(C=C1)COC=1C=C2N(C(N1)=O)CCN2C)C#N | C22H16ClN5O3
